US05198449
N,α-Bis(4-Fluorophenyl)-1-[2(2-naphthalenyloxy)ethyl]-4-piperidinemethanamine hydrochloride (1:2)
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (3.42 g, 0.0113 mol), 2-bromoethyl naphthyl ether (2.83 g, 0.0113 mol), and potassium carbonate (3.46 g, 0.025 mol) was heated at reflux 16 h in 350 mL of 1-butanol containing sodium iodide (0.2 g). The reaction was concentrated to dryness, and the residue partitioned between chloroform and water. The chloroform layer was extracted with 5% sodium hydroxide. The organic layer was dried (Na2SO4) and filtered. The chloroform was removed by rotary evaporator to give a brown residue. This material was subjected to flash chromatography on silica gel. Elution was accomplished using methylene chloride, 1% methanol-methylene chloride, and 2% methanol-methylene chloride. Fractions of similar purity were combined and solvents removed. A brown residue was obtained and converted to the HCl salt in methanol-diethyl ether and placed in the freezer. A white solid was isolated and dried 16 h at 78° C. This process provided 2.24 g (36.3%) of white crystalline product mp 226°-230° C. (dec.).

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.0113 mol, 3.42 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | 2-bromoethyl naphthyl ether | 0.0113 mol, 2.83 g | C1(=CC=CC2=CC=CC=C12)OCCBr | C12H11BrO
reactant | potassium carbonate | 0.025 mol, 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | HCl | Cl | ClH
reactant | 1-butanol | 350 mL | C(CCC)O | C4H10O
solvent | methanol diethyl ether | CO.C(C)OCC
product | N,α-Bis(4-Fluorophenyl)-1-[2(2-naphthalenyloxy)ethyl]-4-piperidinemethanamine hydrochloride | 2.24 g, 36.3% | Cl.FC1=CC=C(C=C1)NC(C1CCN(CC1)CCOC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | InChI=1S/C30H30F2N2O.ClH/c31-26-8-5-23(6-9-26)30(33-28-12-10-27(32)11-13-28)24-15-17-34(18-16-24)19-20-35-29-14-7-22-3-1-2-4-25(22)21-29;/h1-14,21,24,30,33H,15-20H2;1H
